US06579883B1
3a-Fluoro-7-(2-hydroxyethyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one
0.77 g (1.7 mmol) of 5-tert-butyloxycarbonyl-7-[2-(tert-butyldimethylsilyloxy)ethyl]-3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one is stirred in 10 ml of 4 M hydrochloric acidic dioxane for 2 hours at room temperature. The batch is concentrated by evaporation in a vacuum, the residue is taken up in ethyl acetate, washed with saturated NaHCO3, dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography on silica gel with hexane-ethyl acetate yields 0.26 g of product.

reactant | 5-tert-butyloxycarbonyl-7-[2-(tert-butyldimethylsilyloxy)ethyl]-3a-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 1.7 mmol, 0.77 g | C(C)(C)(C)OC(=O)N1C(C2(C(C=3C=CC(=CC13)CCO[Si](C)(C)C(C)(C)C)CCC2)F)=O | C25H38FNO4Si
solvent | dioxane | 4 M, 10 ml | O1CCOCC1 | C4H8O2
product | 3a-Fluoro-7-(2-hydroxyethyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 0.26 g | FC12C(NC=3C=C(C=CC3C1CCC2)CCO)=O | C14H16FNO2
